US04663347
Ethyl 5-acetyl-4-hydroxy-3-methylbenzofuran-2-carboxylate
To a solution of ethyl 4-hydroxy-3-methylbenzofuran-2-carboxylate (220 mg, 1 mmol) in dichloroethane (10 ml) was added aluminum chloride (665 mg, 5 mmol). To the resulting brown solution was added acetyl chloride (0.178 ml, 2.5 mmol). The mixture was stirred for 5 hours at room temperature. Ice and water (20 ml) was added. The mixture was extracted with ethyl acetate. The extracts were dried and concentrated to a white solid which was then treated with 1 ml of 10% K2CO3 aqueous solution in 10 ml methanol for 2 hours. The resulting mixture was poured into 0.1N HCl (25 ml) and filtered. The solid obtained was recrystallized from ethyl acetate/toluene to give the title compound (130 mg, 50%).

reactant | ethyl 4-hydroxy-3-methylbenzofuran-2-carboxylate | 1 mmol, 220 mg | OC1=CC=CC2=C1C(=C(O2)C(=O)OCC)C | C12H12O4
reactant | aluminum chloride | 5 mmol, 665 mg | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | acetyl chloride | 2.5 mmol, 0.178 ml | C(C)(=O)Cl | C2H3ClO
reactant | water | 20 ml | O | H2O
solvent | dichloroethane | 10 ml | ClC(C)Cl | C2H4Cl2
product | Ethyl 5-acetyl-4-hydroxy-3-methylbenzofuran-2-carboxylate | 130 mg, 50% | C(C)(=O)C=1C=CC2=C(C(=C(O2)C(=O)OCC)C)C1O | C14H14O5
